US05624906
A 100 ml round bottom flask equipped with a condenser, addition funnel, thermometer and mechanical stirrer was charged with D-glucono-1,5-1-actone (5.0 g, 0.03 mole) and isopropanol (35 g). The suspension was heated to 50° C. over 15 minutes. A mixture of glycine dodecyl ester p-toluenesulfonate salt (11.7 g, 0.03 mole), triethylamine (2.9 g 0.03 mole) and isopropanol (20 g) were added dropwise over 15 minutes from an addition funnel. The reaction mixture was stirred rapidly for about 2 hrs and then cooled to room temperature. The white product was filtered, washed with chloroform (3×150 ml) and dried under high vacuum at 35° C. giving 7.2 g (61% yield) of N-D-gluconyl dodecyl glycinate with a melting point of 121°-122° C. and 98.6% purity.

reactant | glycine dodecyl ester p-toluenesulfonate salt | 0.03 mole, 11.7 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.C(CCCCCCCCCCC)OC(CN)=O
reactant | triethylamine | 0.03 mole, 2.9 g | C(C)N(CC)CC | C6H15N
solvent | isopropanol | 20 g | C(C)(C)O | C3H8O
solvent | isopropanol | 35 g | C(C)(C)O | C3H8O
product | dodecyl glycinate | 61% yield | NCC(=O)OCCCCCCCCCCCC | C14H29NO2
